US08314240B2
896 mg of N-[6-(methoxymethoxy)-2,3-dihydro-1H-inden-5-yl]-4-methyl-1,3-thiazole-2-sulfonamide, 665 mg of tributyl phosphine, and 257 mg of (2S)-2-fluoropropan-1-ol were dissolved in 8.96 mL of THF, and 829 mg of 1,1′-[(E)-diazen-1,2-diyldicarbonyl]dipiperidine was added thereto, followed by stirring overnight at room temperature. After the insoluble materials were removed by filtration, the filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=90:10 to 50:50) to obtain 632 mg of N-[(2S)-2-fluoropropyl]-N-[6-(methoxymethoxy)-2,3-dihydro-1H-inden-5-yl]-4-methyl-1,3-thiazole-2-sulfonamide.

reactant | N-[6-(methoxymethoxy)-2,3-dihydro-1H-inden-5-yl]-4-methyl-1,3-thiazole-2-sulfonamide | 896 mg | COCOC1=C(C=C2CCCC2=C1)NS(=O)(=O)C=1SC=C(N1)C | C15H18N2O4S2
reactant | tributyl phosphine | 665 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2S)-2-fluoropropan-1-ol | 257 mg | F[C@H](CO)C | C3H7FO
reactant | 1,1′-[(E)-diazen-1,2-diyldicarbonyl]dipiperidine | 829 mg | N(=N\C(=O)N1CCCCC1)/C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 8.96 mL | C1CCOC1 | C4H8O
product | N-[(2S)-2-fluoropropyl]-N-[6-(methoxymethoxy)-2,3-dihydro-1H-inden-5-yl]-4-methyl-1,3-thiazole-2-sulfonamide | 632 mg | F[C@H](CN(S(=O)(=O)C=1SC=C(N1)C)C=1C=C2CCCC2=CC1OCOC)C | C18H23FN2O4S2
